US06759408B2
(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]-oxazin-6-yl)-thiophene-2-sulfonamide
Prepared according to procedure B from 5-bromothiophene-2-sulphonamide and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid. White solid: mp 258-260° C., 1H-NMR (DMSO-d6) δ10.41 (s, 1H), 7.71 (s, 2H), 7.58 (m, 2H), 7.52 (d, 1H, J=3.9 Hz), 7.48 (d, 1H J=8.16 Hz), 6.95(d, 1H J=8.16), 1.66 (s, 6H); MS m/z 337 (M−H). Anal. Calc. For C14H14N2O4S2: C, 49.69; H, 4.17; N, 8.28. Found: C, 49.90; H, 4.28; N, 8.12.

reactant | 5-bromothiophene-2-sulphonamide | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
product | (4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]-oxazin-6-yl)-thiophene-2-sulfonamide | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=C(SC=C2)S(=O)(=O)N)C | C14H14N2O4S2
